DAQHAT-01 internal link: pi_to_fpga_100pf
Vdrive source 0 PULSE(0 3.201 100n 5n 5n 500n 1u)
Rdriver source damp 25
Rseries damp sw 22
Rswitch sw receiver 10
Cload receiver 0 100p
.tran .5n 900n
.measure tran rise TRIG v(receiver) VAL=.9603 RISE=1 TARG v(receiver) VAL=2.2407 RISE=1
.measure tran sample FIND v(receiver) AT=350n
.end
